US07662825B2
a) 3-Fluoro-N-(3-methoxy-2-pyrazinyl)benzenesulphonamide
By the method outlined in Example 1 (reaction performed at room temperature) using 3-chloro-2-pyrazinamine (1.29 g), 3-fluorobenzenesulphonyl chloride (2.13 g). The crude adduct was reacted with a solution of sodium methoxide (10 mL of a 25% solution in methanol) in methanol (20 mL) to afford the sub-titled compound (2.36 g) as a solid.

reactant | 3-chloro-2-pyrazinamine | 1.29 g | ClC=1C(=NC=CN1)N | C4H4ClN3
reactant | 3-fluorobenzenesulphonyl chloride | 2.13 g | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
product | 3-Fluoro-N-(3-methoxy-2-pyrazinyl)benzenesulphonamide | 2.36 g | FC=1C=C(C=CC1)S(=O)(=O)NC1=NC=CN=C1OC | C11H10FN3O3S
